US08492582B2
Thioanisole (2.0 mL) and trifluoroacetic acid (6.8 mL) were added to the obtained tert-butyl 2-(2-(benzyloxy)-5-(morpholin-4-yl)benzamido)-4-(thiophen-2-yl)benzoate (0.19 g), followed by stirring at room temperature for 24 hours. The solvent was evaporated under reduced pressure, and ethyl acetate was added to the residue. The solid substance was collected by filtration, and water and 2-propanol were added to the obtained solid substance. After adjusting the pH to 6.0 with a saturated aqueous solution of sodium bicarbonate, the solid substance was collected by filtration to obtain 0.11 g of 2-(2-hydroxy-5-(morpholin-4-yl)benzamido)-4-(thiophen-2-yl)benzoic acid as a yellow solid.

reactant | Thioanisole | 2.0 mL | C1(=CC=CC=C1)SC | C7H8S
reactant | trifluoroacetic acid | 6.8 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | tert-butyl 2-(2-(benzyloxy)-5-(morpholin-4-yl)benzamido)-4-(thiophen-2-yl)benzoate | 0.19 g | C(C1=CC=CC=C1)OC1=C(C(=O)NC2=C(C(=O)OC(C)(C)C)C=CC(=C2)C=2SC=CC2)C=C(C=C1)N1CCOCC1 | C33H34N2O5S
product | 2-(2-hydroxy-5-(morpholin-4-yl)benzamido)-4-(thiophen-2-yl)benzoic acid | 0.11 g | OC1=C(C(=O)NC2=C(C(=O)O)C=CC(=C2)C=2SC=CC2)C=C(C=C1)N1CCOCC1 | C22H20N2O5S
